* D:\home\brosnan\books\circuits\Circuits-LTSpice\Controller-control-systems\PD-controller.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 Vcc Vee N002 AD823 ;§pnba In+)In-)V+)V-)OUT
X§U2 0 N006 Vcc Vee N007 AD823 ;§pnba In+)In-)V+)V-)OUT
R8 N005 N001 10k
R2 N006 N007 250k
R3 N001 N002 3.8k
R4 N002 N003 10k
R5 N007 N003 10k
R6 N003 Vout1 10k
X§U3 0 N003 Vcc Vee Vout1 AD823 ;§pnba In+)In-)V+)V-)OUT
C1 N006 N008 2µ
V1 Vcc 0 24
V2 Vee 0 -24
V§e N005 0 AC 1
R1 N005 N008 10k
R7 Vout1 N004 10k
R9 N004 Vout 10k
X§U4 0 N004 Vcc Vee Vout AD823 ;§pnba In+)In-)V+)V-)OUT
.ac dec 1000 10m 10k
* Transfer function proportional control = -R3 / R8 = -0.38
* Transfer function derivative control = D * ( N / ( 1 + N / s ) ) = -0.5 * ( 50 / ( 1 + 50 / s ) )\nD = -R2 * C1 = -0.5\nN = 1 / ( R1 * C1 ) = 50\nPolo a s = -N = - 1 / (R1 * C1) ------> -8Hz
* Proportional Derivative control (PD)
* Inverting summing amplifier\nGain = -1
* Inverting amplifier\nGain = -1
* Transfer function from e to Vout\n \nVOUT/E = P + D * ( N / ( 1 + N / s ) ) = -0.38 -0.5 * ( 50 / ( 1 + 50 / s ) )
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\AD823A.asy)
.lib ADI.lib
.backanno
.end
